US07910740B2
[4-(5-Bromo-2-methoxy-phenyl)-thiazol-2-yl]-(4-imidazol-1-yl-3-methoxy-phenyl)-amine
The title compound was prepared in analogy to example 1 step e) from 232 mg (0.75 mmol) 2-bromo-1-(5-bromo-2-methoxyphenyl)ethanone and 170 mg (0.68 mmol) (4-imidazol-1-yl-3-methoxy-phenyl)-thiourea yielding 130 mg (41%) [4-(5-bromo-2-methoxy-phenyl)-thiazol-2-yl]-(4-imidazol-1-yl-3-methoxy-phenyl)-amine as a light yellow solid. MS ISP (m/e): 457.1/459.3 (100/90) (M+H)+.

reactant | 2-bromo-1-(5-bromo-2-methoxyphenyl)ethanone | 0.75 mmol, 232 mg | BrCC(=O)C1=C(C=CC(=C1)Br)OC | C9H8Br2O2
reactant | (4-imidazol-1-yl-3-methoxy-phenyl)-thiourea | 0.68 mmol, 170 mg | N1(C=NC=C1)C1=C(C=C(C=C1)NC(=S)N)OC | C11H12N4OS
product | [4-(5-Bromo-2-methoxy-phenyl)-thiazol-2-yl]-(4-imidazol-1-yl-3-methoxy-phenyl)-amine | BrC=1C=CC(=C(C1)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC=C1)OC)OC | C20H17BrN4O2S
